US06045773
EXAMPLE 7 Step 1. Preparation of 1-(4-benzyloxyphenyl)-4.4,4-trifluoro-1,3-butanedione.
A solution of 4-benzyloxyacetophenone (6.50 g, 29 mmol) in ether (70 mL) was cooled to 0° C. and treated with ethyl trifluoroacetate (4.12 g, 29 mmol) and 25% sodium methoxide in methanol (6.39 g, 30 mmol). The reaction was warmed to room temperature and stirred for 64.4 hours. The reaction was quenched with 3 N HCl (15 mL), extracted with ethyl acetate, washed with brine, dried over anhyd. MgSO4, filtered and concentrated in vacuo to give the title compound as a yellow solid (8.91 g, 96%): mp 92.4-96.5° C. 1H NMR (CDCl3) 15.30 (br s, 1 H), 8.86 (d, 2 H, J=8.9 Hz), 7.43 (m, 5 H), 7.08 (d, 2 H, J=8.9 Hz), 6.50 (s, 1 H) 5.16 (s, 2 H).

reactant | 4-benzyloxyacetophenone | 29 mmol, 6.50 g | CC(=O)C1=CC=C(C=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | ethyl trifluoroacetate | 29 mmol, 4.12 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 30 mmol, 6.39 g | CO | CH4O
solvent | ether | 70 mL | CCOCC | C4H10O
product | 1-(4-benzyloxyphenyl)-4.4,4-trifluoro-1,3-butanedione | 8.91 g, 96% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C17H13F3O3
